US08492559B2
Stage 1: 4-(Azetidin-1-yl)-4-phenylcyclohexanone oxime
A solution of 4-(azetidin-1-yl)-4-phenylcyclohexanone (8.4 g) in methanol (84 ml), water (84 ml) and sodium hydrogen carbonate (10.08 g) was stirred for 5 min at room temperature, then hydroxylamine hydrochloride (6.95 g) was added in portions and the mixture was stirred for 8 hours at RT. A further 0.4 equiv. of sodium hydrogen carbonate and hydroxylamine hydrochloride were then added, and stirring was carried out for 16 h at room temperature. Then the reaction mixture was concentrated under reduced pressure, the organic phase was separated off and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated under reduced pressure to yield the desired crude product. Yield: 6 g (67% crude)

reactant | 4-(azetidin-1-yl)-4-phenylcyclohexanone | 8.4 g | N1(CCC1)C1(CCC(CC1)=O)C1=CC=CC=C1 | C15H19NO
reactant | sodium hydrogen carbonate | 10.08 g | C(O)([O-])=O.[Na+]
reactant | hydroxylamine hydrochloride | 6.95 g | Cl.NO
reactant | sodium hydrogen carbonate | 0.4 equiv. | C(O)([O-])=O.[Na+]
solvent | methanol | 84 ml | CO | CH4O
solvent | water | 84 ml | O | H2O
product | 4-(Azetidin-1-yl)-4-phenylcyclohexanone oxime | N1(CCC1)C1(CCC(CC1)=NO)C1=CC=CC=C1 | C15H20N2O
